US06884821B1
1.009 g of N-[(5-bromo-2-methoxy-3-pyridyl)methyl]carbamate, 45 mg of dichlorobistriphenylphosphine palladium, 325 mg of sodium formate and 17 mg of triphenylphosphine were dissolved in 3 ml anhydrous N,N-dimethylformamide, followed by stirring at 110° C. for 2.5 hours in a carbon monoxide atmosphere. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 401 mg of tertiary butyl N-[(5-formyl-2-methoxy-3-pyridyl)methyl]carbamate was obtained from fractions eluted with hexane-ethyl acetate (3.5:1).

reactant | N-[(5-bromo-2-methoxy-3-pyridyl)methyl]carbamate | 1.009 g | BrC=1C=C(C(=NC1)OC)CNC([O-])=O
reactant | sodium formate | 325 mg | C(=O)[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | triphenylphosphine | 17 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | tertiary butyl N-[(5-formyl-2-methoxy-3-pyridyl)methyl]carbamate | 401 mg | C(=O)C=1C=C(C(=NC1)OC)CNC(OC(C)(C)C)=O | C13H18N2O4
